US07728029B2
To a mixture of t-butyl nitrite (29.5 mL, 248 mmol), cuprous chloride (17.6 g, 177.8 mmol) and anhydrous acetonitrile (490 mL) was added 5-amino-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (25 g, 148 mmol) in portions over 30 minutes at 0° C. The reaction mixture was stirred at room temperature for 1 h, then at 65° C. for 1 h. The mixture was then poured into 6N HCl (600 mL) and extracted with dichloromethane. The aqueous phase was extracted three times with dichloromethane. The combined organic phases were concentrated in vacuo, and the crude residue was purified by flash chromatography eluting with a gradient of 0-20% ethyl acetate/hexanes, then 20% ethyl acetate/hexanes to give 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (18 g, 64%).

reactant | t-butyl nitrite | 248 mmol, 29.5 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 148 mmol, 25 g | C(C)OC(=O)C=1C=NN(C1N)C | C7H11N3O2
reactant | HCl | 6N, 600 mL | Cl | ClH
solvent | acetonitrile | 490 mL | C(C)#N | C2H3N
product | 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 18 g, 64% | C(C)OC(=O)C=1C=NN(C1Cl)C | C7H9ClN2O2
